US04232163
Preparation of 4-bromo-4'-chloro-N-methylacetoacetanilide
A 500 ml reaction flask fitted with a condenser, drying tube, magnetic stirrer, thermometer and dropping funnel was charged with 38.9 g (0.172 mole) of 4'-chloro-N-methylacetoacetanilide and 350 ml of glacial acetic acid. The dropping funnel contained 27.5 g (0.172 mole) of bromine and a crystal of iodine dissolved in 85 ml of acetic acid. The bromination solution was added dropwise over 45 minutes to the stirred reaction solution while maintaining a pot temperature of about 25°. The solution was allowed to stir at ambient temperature for 48 hours. The acetic acid solution was poured into 800 ml of cold water. The aqueous mixture was twice extracted with 400 ml of ether. The combined ether extracts were washed with water and dried over sodium sulfate. The solvent was removed on the rotary evaporator to give a residual liquid (40.4 g, 77%) which was used in subsequent reactions without further purification. N.M.R. (CDCl3) ∂3.2 (NCH3), 3.7 (0= C CH2C=O), 4.0 (0=CCH2Br), 5.0 (CH, enol), 7.2-7.4 (aromatic).

reactant | 4'-chloro-N-methylacetoacetanilide | 0.172 mole, 38.9 g | ClC1=CC=C(N(C(CC(=O)C)=O)C)C=C1 | C11H12ClNO2
reactant | bromine | 0.172 mole, 27.5 g | BrBr | Br2
reactant | iodine | II | I2
reactant | water | 800 ml | O | H2O
solvent | acetic acid | 85 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 4-bromo-4'-chloro-N-methylacetoacetanilide | 40.4 g, 77% | BrCC(CC(=O)N(C1=CC=C(C=C1)Cl)C)=O | C11H11BrClNO2
